US06670341B1
Synthesis of AZT-Malonic Acid
One gram of AZT was dissolved in 30 ml of anhydrous acetonitrile and added dropwise to a solution of 632 mg of malonyl chloride in 20 ml of acetonitrile at 0° C. The reaction mixture was stirred for 2 hours at 0° C. then at 8-10° C. for 4.5 hours. Thin layer chromatography was used to indicate that the reaction was complete. Water (4 ml) was added. Solvents were removed in vacuo and the residue purified by silica gel chromatography eluting with CHCl3:MeOH. Pure product was obtained in a 68% yield.

reactant | AZT | One gram | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)CO)N=[N+]=[N-] | C10H13N5O4
reactant | malonyl chloride | 632 mg | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | Water | 4 ml | O | H2O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | AZT Malonic Acid | 68% yield | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)CO)N=[N+]=[N-].C(CC(=O)O)(=O)O | InChI=1S/C10H13N5O4.C3H4O4/c1-5-3-15(10(18)12-9(5)17)8-2-6(13-14-11)7(4-16)19-8;4-2(5)1-3(6)7/h3,6-8,16H,2,4H2,1H3,(H,12,17,18);1H2,(H,4,5)(H,6,7)/t6-,7+,8+;/m0./s1
